US06919356B2
Part B. Preparation of toluene-4-sulfonic acid 2-(4-trifluoromethylphenyl)-ethyl ester
A solution of 2-(4-trifluoromethylphenyl)-ethanol (570 mg, 3.0 mmol) in pyridine (6 mL) was stirred on an ice/acetone bath and treated with p-toluenesulfonyl chloride (630 mg, 3.3 mmol). The cooling bath was replaced with an ice/water bath and the mixture was stirred for 3.5 hours. Ice-cold water (12 mL) was added slowly, and the mixture was extracted three times with chloroform. The combined organic phases were washed with water, then with cold 1.0 N aqueous sulfuric acid until the wash phase was acidic. The organic phase was dried over sodium sulfate and concentrated to provide a white solid (826 mg) which contained about 10% by weight of residual alcohol. This was used without further purification. 1H NMR (300 MHz, CDCl3) for toluenesulfonate: δ7.65 (d, J=8 Hz, 2H), 7.50 (d, J=8 Hz, 2H), 7.26 (d, J=8 Hz, 2H), 7.23 (d, J=8 Hz, 2H), 4.26 (t, J=7 Hz, 2H), 3.02 (t, J=7 Hz, 2H), 2.44 (s, 3H).

reactant | 2-(4-trifluoromethylphenyl)-ethanol | 3.0 mmol, 570 mg | FC(C1=CC=C(C=C1)CCO)(F)F | C9H9F3O
reactant | p-toluenesulfonyl chloride | 3.3 mmol, 630 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 2-(4-trifluoromethylphenyl)-ethyl ester | 826 mg | FC(C1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C16H15F3O3S
